US09278991B2
Step 1: 1 Liter of ethanol was charged into a reactor and stirred rapidly. 0.3 kg of 6-chloroadenosine and 0.267 kg of cyclopentylamine were added to the ethanol in the reactor. The reactor was heated to reflux for 2 hr, then cooled to 8 degrees C. and kept under these conditions for 12 hours. The crystallized material was filtered from the mother liquid and the solid cake was washed with 0.33 L of ethanol to produced a wet cake. The wet cake was dried to obtain N6-cyclopentyladenosine (0.249 kg).

reactant | 6-chloroadenosine | 0.3 kg | ClC1(C2=NCN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2=NC=N1)N | C10H14ClN5O4
reactant | cyclopentylamine | 0.267 kg | C1(CCCC1)N | C5H11N
solvent | ethanol | C(C)O | C2H6O
product | N6-cyclopentyladenosine | 0.249 kg | C1(CCCC1)NC=1C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N=CN1 | C15H21N5O4
